US07855227B2
Step C 2-[[2-(3-Hydroxy-phenyl)-ethyl]-(tetrahydrofuran-3-yl)amino]-N,N-dimethyl-acetamide
A mixture of 0.61 g (1.59 mmol) of 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(tetrahydrofuran-3-yl)amino]-N,N-dimethyl-acetamide and 60 mg of Pd/C 10% in 10 ml of ethanol was hydrogenated for 2 hours at 40 psi. The catalyst was filtered off and the solvent was removed under vacuum. The crude residue was triturated with diethyl ether and filtered. 0.45 g (96% yield) of a yellow solid were isolated.

reactant | 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(tetrahydrofuran-3-yl)amino]-N,N-dimethyl-acetamide | 1.59 mmol, 0.61 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN(CC(=O)N(C)C)C1COCC1 | C23H30N2O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | 2-[[2-(3-Hydroxy-phenyl)-ethyl]-(tetrahydrofuran-3-yl)amino]-N,N-dimethyl-acetamide | 0.45 g, 96% yield | OC=1C=C(C=CC1)CCN(CC(=O)N(C)C)C1COCC1 | C16H24N2O3
